US05672567
Preparation of 5-(1-hydroxy-2'-trifluoromethylbenzyl)thiazole (Compound No. 78)
To a solution of 5-bromothiazole in 12 ml of ether at -78° C., 2.1 ml of 2.5M n-butyl lithium were added dropwise over 30 minutes. The resulting brown suspension was stirred at -78° C. for 2 hours and then a solution of 2-(trifluoromethyl)benzaldehyde in 2 ml of diethyl ether was added dropwise. The reaction was quenched 1 hour later with 10 ml of water saturated with ammonium chloride. The reaction mixture was extracted twice with 2 ml of diethyl ether. The organic phases were combined, dried (MgSO4) and concentrated in vacuo to yield 1.16 g of a brown oil. This oil was heated to 50° C. at 0.01 mm Hg to remove volatiles leaving 1.16 g of brown oil which was then chromatographed on silica gel using hexane-ethyl acetate (75-25) as the eluant. The last fraction to come off the column contained 297 mg of the desired product, 5-(1-hydroxy-2'-trifluoromethylbenzyl)-thiazole.

reactant | 5-bromothiazole | BrC1=CN=CS1 | C3H2BrNS
reactant | n-butyl lithium | 2.5M, 2.1 ml | C(CCC)[Li]
reactant | 2-(trifluoromethyl)benzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | ether | 12 ml | CCOCC | C4H10O
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | 5-(1-hydroxy-2'-trifluoromethylbenzyl)thiazole | 1.16 g | OC1(CC2=CN=CS2)C(C=CC=C1)C(F)(F)F | C11H10F3NOS
